US04299769
1-[3-(Benzoylthio)-3-(2-thenoyl)propionyl]-L-proline
As for Example 1, 1-[3-bromo-3-(2-thenoyl)propionyl]-L-proline (0.0085 mole) in 25 ml. of acetonitrile is added to a mixture of 0.015 mole of sodium methoxide and 0.015 mole of thiobenzoic acid in 25 ml. of acetonitrile. The mixture is stirred at room temperature for 16 hours, one ml. of acetic acid is added and the solvent removed under reduced pressure. The residue is partitioned between dichloromethane and water containing acetic acid. The organic layer is separated, washed with water, dried over magnesium sulfate and the solvent removed under reduced pressure to give the product of the Example as a pale yellow glass.

reactant | 1-[3-bromo-3-(2-thenoyl)propionyl]-L-proline | 0.0085 mole | BrC(CC(=O)N1[C@H](C(=O)O)CCC1)C(C1=CC=CS1)=O | C13H14BrNO4S
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium methoxide | 0.015 mole | C[O-].[Na+]
reactant | thiobenzoic acid | 0.015 mole | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[3-(Benzoylthio)-3-(2-thenoyl)propionyl]-L-proline | C(C1=CC=CC=C1)(=O)SC(CC(=O)N1[C@H](C(=O)O)CCC1)C(C1=CC=CS1)=O | C20H19NO5S2
